US05712267
(1R,5S,6S)-6-[(1R)-1-Hydroxyethyl]-1-methyl-2-((2S,4S) -2-[4-(methylamidino)piperazin-1-ylcarbonyl]pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylic acid
A procedure similar to that described in Example 101 was repeated, but using 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (prepared as described in Preparation 123) and (2S,4S)-4-mercapto-2-[4-(methyl-4-nitrobenzyloxycarbonylamidino)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (prepared as described in Preparation 104 as starting materials, in relative proportions similar to those used in that Example, to obtain the title compound.

reactant | 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O8P
reactant | (2S,4S)-4-mercapto-2-[4-(methyl-4-nitrobenzyloxycarbonylamidino)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C(N(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=N | C27H31N7O9S
product | (1R,5S,6S)-6-[(1R)-1-Hydroxyethyl]-1-methyl-2-((2S,4S) -2-[4-(methylamidino)piperazin-1-ylcarbonyl]pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylic acid | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](NC2)C(=O)N2CCN(CC2)C(NC)=N)C(=O)O)C1=O | C21H32N6O5S
